Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
gabapentin / Lyrica
 
Attending: ___
 
Chief Complaint:
nausea, abdomnial pain
 
Major Surgical or Invasive Procedure:
nasogastric tube placement

 
History of Present Illness:
Ms. ___ is a ___ with recurrent stage IV 
endometrial cancer, s/p TAH/BSO in ___, presenting with nausea 
and abdominal pain, concern for SBO. She reports has had 
increasing abdominal pain and nausea over past two days. Reports 
last bowel movement yesterday, was small, hard. No flatus since 
yesterday. Increased burping today. Feels nausea, and near 
vomiting but has not yet vomited.

Patient with two prior recent admissions for small bowel 
obstruction in ___ related to peritoneal metastases & ascites 
which was managed with NG tube and was treated with Pleurex 
catheter.  Resolved without other surgical Management. Pleurex 
catheter remains in place. Last accessed this AM by ___ with 
removal of 300cc of ascites.  Reports usually accessed three 
times a week with removal of 300-600cc fluid. 

Pt reports with last chemo administered 3 weeks prior, however 
per pt, chemo stopped due to continued progression of disease. 
Reports has appointment for ___ at ___ to consider 
enrollment in new study protocol. 
 
Denies fever, chills, dysuria, frequency, weight loss/gain, 
diarrhea, chest pain, shortness of breath, lower extremity 
swelling, calf pain. 

 
Past Medical History:
Oncologic History:
- ___: endometrial biopsy with adenocarcinoma
- ___: TAH-BSO with staging laparotomy -> stage IVb
- ___: started ___, complicated by neuropathy
- ___: anterior vaginal wall nodule with recurrence
- ___: pelvic radiotherapy with avastin + 
interstitial
brachytherapy
- ___: PET-CT with progressive disease in anterior abdominal
wall
- ___: ___
- ___: started megace then tamoxifen
- ___: PET with increased anterior abdominal wall nodules ->
started everolimus, but CA-125 increased
- ___: ___
- ___: PET with increased peritoneal carcinomatosis ->
started taxotere
- ___: PET with stable disease
- ___: partial SBO, started gemcitabine
- ___: PET with progression -> phase I trial kevetrin at ___
- ___: Progression on CT, admitted for SBO ___: last chemo administered, stopped as continued
progression of disease

Obstetric History: G0

Gynecologic History:
- LMP ___
- no h/o STIs

Past Medical History:
- Stage IV endometrial cancer
- arthritis
- hypertension
- T2DM
- neuropathy
- trigger finger
- depression
- psoriasis
- fatty liver
- GERD

Past Surgical History:
- ex-lap with TAH, BSO, debulking (___) 

 
Social History:
___
Family History:
mom with myeloproliferative d/o; PGM had cholangiocarcinoma; MGM 
had breast cancer in her ___ maternal aunt had breast cancer 
then uterine cancer then MDS which transformed to leukemia. 
Paternal aunt's son had renal cell cancer 56. Brother ___ had 
large colon polyp- apparently had MSI/IHC testing of this for 
HNPCC which was reportedly negative; no further testing was 
recommended 
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, mass palpated around umblicus, 
no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ CT Abd/Pel
IMPRESSION: 
    
1. Small bowel obstruction with transition point in the low 
anterior abdomen at the site of incisional/anterior abdominal 
wall metastasis. 
2. Marked interval progression of metastatic disease from ___. 
3. Drain position and suprapubic fluid collection are stable 

___ 06:40AM BLOOD WBC-8.6 RBC-3.87* Hgb-10.6* Hct-33.9* 
MCV-88 MCH-27.4 MCHC-31.3 RDW-17.1* Plt ___
___ 06:40AM BLOOD Neuts-74.1* ___ Monos-6.2 Eos-1.5 
Baso-0.1
___ 01:35PM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-122* UreaN-5* Creat-0.6 Na-137 
K-4.6 Cl-103 HCO3-28 AnGap-11
___ 06:40AM BLOOD Calcium-8.9 Phos-4.0 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after presenting with small bowel obstruction. She was 
immediately made NPO with maintenance IVF. She had NG tube 
placement. Heme onc was consulted who recommended continuation 
with abdomnial pleurex 3x/week.
.
SW saw the patient during this visit and thought she was coping 
well. 
.
On HD#2, her NG tube output was noted to be decreasing and 
patient had flatus. She had drainage from abdomnial pleurex of 
700cc. On HD#3, her NG tube inadvertent fell off when she was 
taking a sponge bath. Patient continued to pass flatus and had a 
bowel movement.
.
On HD#4, patient's diet was initially advanced to sips. Patient 
tolerated this and she was advanced to clears. Her diet was then 
advanced without difficulty to regular diet and she tolerated it 
well. 
.
By HD#5, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently. She was then discharged 
home in stable condition with outpatient follow-up scheduled.

 

 
Medications on Admission:
amytriptyline 125mg QD, lasix 80mg ___, metformin 1000mg 
daily, omeprazole 20mg daily

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
presenting with a small bowel obstruction. You have recovered 
well and are now able to eat a regular diet. The team feels that 
you are safe to be discharged home. Please follow these 
instructions: 
. 
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___